US07889297B2
B. Synthesis of methyl 2-chloro-1H-benzimidazole-6-carboxylate
Methyl 2-oxo-2,3-dihydro-1H-benzimidazole-6-carboxylate (43 g, 0.22 mol) was charged into Phosphorus oxychloride (286 ml). Dry hydrogen chloride was bubbled through the boiling reaction mass for 12 hours. After cooling reaction mass was poured in mixture of ice and water (2 kg). Precipitate was filtered out. Filtrate was diluted with water (1.25 l) and ammonia solution (˜800 ml). After that pH was adjusted to 5.6 with use of ammonia solution. Precipitate was filtered and rinsed with water. Yield 39.5 g (84%).

reactant | Methyl 2-oxo-2,3-dihydro-1H-benzimidazole-6-carboxylate | 0.22 mol, 43 g | O=C1NC2=C(N1)C=C(C=C2)C(=O)OC | C9H8N2O3
reactant | Phosphorus oxychloride | 286 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | water | 2 kg | O | H2O
product | methyl 2-chloro-1H-benzimidazole-6-carboxylate | ClC1=NC2=C(N1)C=C(C=C2)C(=O)OC | C9H7ClN2O2
